US09416132B2
81. 4-((3-(3-chlorophenyl)imidazo[1,2-b]pyridazin-6-yl)amino)cyclohexane-1-sulfonamide (EX. 8-81)
A mixture of 4-aminocyclohexane-1-sulfonamide (200 mg, 1.12 mmol), 6-chloro-3-(3-chlorophenyl)imidazo[1,2-b]pyridazine (200 mg, 0.76 mmol) and KF (500 mg, 8.6 mmol) in DMSO (2 mL) was heated at 120° C. overnight. LCMS showed the reaction was complete. The mixture was poured into brine (80 mL) and extracted with EtOAc (30 mL×3). The combined extracts were dried over Na2SO4, filtered and concentrated in vacuo. The residue was purified by to prep. HPLC give two isomers: EX. 8-81 isomer 1 (7.0 mg) and EX. 8-81 isomer 2 (8.1 mg) as white solid.

reactant | 4-aminocyclohexane-1-sulfonamide | 1.12 mmol, 200 mg | NC1CCC(CC1)S(=O)(=O)N | C6H14N2O2S
reactant | 6-chloro-3-(3-chlorophenyl)imidazo[1,2-b]pyridazine | 0.76 mmol, 200 mg | ClC=1C=CC=2N(N1)C(=CN2)C2=CC(=CC=C2)Cl | C12H7Cl2N3
reactant | KF | 8.6 mmol, 500 mg | [F-].[K+]
solvent | DMSO | 2 mL | CS(=O)C | C2H6OS
solvent | brine | 80 mL | [Cl-].[Na+].O
product | 4-((3-(3-chlorophenyl)imidazo[1,2-b]pyridazin-6-yl)amino)cyclohexane-1-sulfonamide | ClC=1C=C(C=CC1)C1=CN=C2N1N=C(C=C2)NC2CCC(CC2)S(=O)(=O)N | C18H20ClN5O2S
